US06673799B1
(2R,5S)-1-Benzyl-2,5-dimethylpiperazine
In an atmosphere of argon, 0.57 g of lithium aluminum hydride was added at 0° C. to 30 ml of THF solution containing 1.0 g of (3S,6R)-1-benzyl-3,6-dimethylpiperazine-2,5-dione, and the mixture was stirred overnight with heating under reflux. The reaction mixture was cooled to 0° C., 1.0 ml of water was added dropwise thereto and 1.0 ml of 10% aqueous sodium hydroxide was added dropwise thereto, and then the mixture was further mixed with 1.0 ml of water and stirred for 30 minutes. The precipitate was separated by filtration and washed with ethyl acetate, and the filtrate was washed with 10% aqueous potassium carbonate and saturated brine, dried over anhydrous magnesium sulfate, filtered and then concentrated. The residue was subjected to a silica gel column chromatography and eluted with chloroform-methanol-28% aqueous ammonia (25:1:0.1, v/v/v) to obtain 0.75 g of the title compound as a yellow oily substance.

reactant | lithium aluminum hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | C1CCOC1 | C4H8O
reactant | (3S,6R)-1-benzyl-3,6-dimethylpiperazine-2,5-dione | 1.0 g | C(C1=CC=CC=C1)N1C([C@@H](NC([C@H]1C)=O)C)=O | C13H16N2O2
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | water | 1.0 ml | O | H2O
solvent | water | 1.0 ml | O | H2O
product | (2R,5S)-1-Benzyl-2,5-dimethylpiperazine | 0.75 g | C(C1=CC=CC=C1)N1[C@@H](CN[C@H](C1)C)C | C13H20N2
